US06503949B1
2-{4-[1-(4-tert-Butylphenyl)-3-(3-methylsulfonyl-4-methylphenyl)ureidomethyl]-benzoylamino}-ethanesulfonic Acid
4-[1-(4-tert-Butylphenyl)-3-(3-methylsulfonyl-4-methylphenyl)ureidomethyl]benzoic acid (300 mg, 0.6 mmol) was dissolved in DMF (10 ml). Hydroxybenzotriazole (100 mg, 0.7 mmol), and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (130 mg, 0.7 mmol) were added and the mixture was stirred for 30 minutes at room temperature followed by addition of 2-aminoethanesulfonic acid (110 mg, 0.9 mmol) and diisopropylethylamine (120 mg, 160 μl, 1.0 mmol). After 16 hours the reaction mixture was poured into water (40 mL), pH was adjusted to acidic reaction with sodium hydrogen sulphate and the solution was concentrated in vacuo. The residue was purified by flash chromatography (20 g Silica Gel) using methanol and dichloromethane (10:90) as eluent to give 0.2 g of the title compound.

reactant | 4-[1-(4-tert-Butylphenyl)-3-(3-methylsulfonyl-4-methylphenyl)ureidomethyl]benzoic acid | 0.6 mmol, 300 mg | C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=C(C(=O)O)C=C1)NC(=O)NC1=CC(=C(C=C1)C)S(=O)(=O)C | C27H30N2O5S
reactant | Hydroxybenzotriazole | 0.7 mmol, 100 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.7 mmol, 130 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-aminoethanesulfonic acid | 0.9 mmol, 110 mg | NCCS(=O)(=O)O | C2H7NO3S
reactant | diisopropylethylamine | 1.0 mmol, 160 μl, 120 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen sulphate | S(=O)(=O)(O)[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 2-{4-[1-(4-tert-Butylphenyl)-3-(3-methylsulfonyl-4-methylphenyl)ureidomethyl]-benzoylamino}-ethanesulfonic Acid | 0.2 g | C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=C(C(=O)NCCS(=O)(=O)O)C=C1)NC(=O)NC1=CC(=C(C=C1)C)S(=O)(=O)C | C29H35N3O7S2
